US08633186B2
2-(2-ethyl-2-(hydroxymethyl)butoxy)-6-nitrobenzonitrile
Prepared as in Example 215c from 2,2-diethylpropane-1,3-diol and 2,6-dinitrobenzonitrile in 86% yield. 1H NMR (400 MHz, DMSO-d6) δ 0.80 (t, J=7.6 Hz, 6H), 1.34 (q, J=7.6 Hz, 4H), 3.33 (d, J=5.6 Hz, 2H), 3.96 (s, 2H), 4.57 (t, J=5.2 Hz, 1H), 7.74-7.76 (m, 1H), 7.84-7.90 (m, 2H).

reactant | 2,2-diethylpropane-1,3-diol | C(C)C(CO)(CO)CC | C7H16O2
reactant | 2,6-dinitrobenzonitrile | [N+](=O)([O-])C1=C(C#N)C(=CC=C1)[N+](=O)[O-] | C7H3N3O4
product | 2-(2-ethyl-2-(hydroxymethyl)butoxy)-6-nitrobenzonitrile | 86% yield | C(C)C(COC1=C(C#N)C(=CC=C1)[N+](=O)[O-])(CC)CO | C14H18N2O4
